US05391776
To a solution of 17β-methoxycarbonylmethylaminocarbonyloxy-3-methoxymethyloxy-1,3,5-estratriene (0.77 g) in methanol (40 ml) was added 2 N aqueous potassium hydroxide (6 ml), and the resultant mixture was stirred at room temperature for 2 hours. The reaction mixture was mixed with ion exchange resin (DOWEX, 5W-X8), neutralized, and filtered to remove the ion exchange resin. The filtrate was concentrated in vacuo to give 17β-carboxymethylaminocarbonyloxy-3-methoxymethyloxy-1,3,5-estratriene (0.65 g, Yield: 88%) as an amorphous solid.

reactant | 17β-methoxycarbonylmethylaminocarbonyloxy-3-methoxymethyloxy-1,3,5-estratriene | 0.77 g | COC(=O)CNC(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(C=C[C@@H]3[C@H]1CC2)OCOC | C24H33NO6
reactant | potassium hydroxide | 2 N, 6 ml | [OH-].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | 17β-carboxymethylaminocarbonyloxy-3-methoxymethyloxy-1,3,5-estratriene | 0.65 g, Yield: 88% | C(=O)(O)CNC(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(C=C[C@@H]3[C@H]1CC2)OCOC | C23H31NO6
